US08877760B2
A solution of Boc-β-(2-thienyl)-D-alanine (504 mg, 1.86 mmol), HOBt hydrate (340 mg, 2.22 mmol) and EDC (460 mg, 2.39 mmol) in DMF (8 mL) was stirred at room temperature for 30 min. Conc. NH4OH (0.800 mL) was added. The mixture was stirred at room temperature for 20 h. Water and EtOAc were added. Organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give (R)-tert-butyl 1-amino-1-oxo-3-(thiophen-2-yl)propan-2-ylcarbamate as a solid (448 mg).

reactant | Boc-β-(2-thienyl)-D-alanine | 1.86 mmol, 504 mg | C(=O)(OC(C)(C)C)N[C@H](CC=1SC=CC1)C(=O)O | C12H17NO4S
reactant | HOBt hydrate | 2.22 mmol, 340 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC | 2.39 mmol, 460 mg
reactant | NH4OH | 0.800 mL | [NH4+].[OH-]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | (R)-tert-butyl 1-amino-1-oxo-3-(thiophen-2-yl)propan-2-ylcarbamate | 448 mg | NC([C@@H](CC=1SC=CC1)NC(OC(C)(C)C)=O)=O | C12H18N2O3S
